US06653313B2
D. Dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate
A mixture of dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(2-nitrophenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate (3.0 g) and palladium hydroxide, 20 wt % on carbon (300 mg) in MeOH (50 ml) was stirred under hydrogen atmosphere by balloon for 4 hours. Catalyst was removed by filtration and filter cake was washed with CH2Cl2. The combined organic solvent was evaporated to afford a dark green solid (2.61 g192%).

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-[2-(2-nitrophenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | 3.0 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)[N+](=O)[O-])CC(=O)OC)C(=O)OC | C26H24Cl2N2O8
solvent | MeOH | 50 ml | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | Dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | NC1=C(C=CC=C1)CCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)OC | C26H26Cl2N2O6
